US08071581B2
Compound 156: 3-(1-Methyl-1H-pyrazol-4-yl)-6-(6-vinyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
To a degassed (bubbled nitrogen for 15 mins) mixture of water (1 mL) and 1,4-dioxane (2 mL) was added 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)-quinoline (117 mg, 0.31 mmol), vinyl boronic acid pinacol ester (59 μl, 0.35 mmol), potassium carbonate (0.93 mmol, 128 mg) and dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct (15 mg, 0.02 mmol). The microwave tube was capped and heated in a microwave reactor (Personel Chemistry, Emrys Optimizer) at 135° C. for 1500 seconds. After such time the organic phase was concentrated on silica and purified via flash column chromatography eluting with 0-10% Methanol in dichloromethane to obtain the title compound (22 mgs, 19% yield) as a white solid. Analytical data presented in Table 2.

reactant | 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-(1-methyl-1H-pyrazol-4-yl)-quinoline | 0.31 mmol, 117 mg | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=2C=NN(C2)C | C19H14ClN7
reactant | vinyl boronic acid pinacol ester | 0.35 mmol, 59 μl | C(=C)B1OC(C)(C)C(C)(C)O1 | C8H15BO2
reactant | potassium carbonate | 0.93 mmol, 128 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct | 0.02 mmol, 15 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3-(1-Methyl-1H-pyrazol-4-yl)-6-(6-vinyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 22 mgs, 19% yield | CN1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C=C | C21H17N7
